US05872137
A mixture of 0.56 g of 3,5-dichloro-4-(3-bromopropyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene, 0.22 g of 4-trifluoromethylphenol, 0.21 g of potassium carbonate and 20 ml of N,N-dimethylformamide was stirred at room temperature. After stirring for 7 hours, the reaction mixture was poured into ice-water, and extracted twice with 50 ml of diethyl ether. The combined ether layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.48 g of 3,5-dichloro-4-(3-(4-trifluoromethylphenoxy)propyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene (71% yield), nD24.4 1.5390.

reactant | 3,5-dichloro-4-(3-bromopropyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 0.56 g | ClC=1C=C(C=C(C1OCCCBr)Cl)OCC=C(Cl)Cl | C12H11BrCl4O2
reactant | 4-trifluoromethylphenol | 0.22 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | potassium carbonate | 0.21 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3,5-dichloro-4-(3-(4-trifluoromethylphenoxy)propyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 0.48 g, 71% yield | ClC=1C=C(C=C(C1OCCCOC1=CC=C(C=C1)C(F)(F)F)Cl)OCC=C(Cl)Cl | C19H15Cl4F3O3
